Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROLOGY
 
Allergies: 
Penicillins / Chantix / Wellbutrin
 
Attending: ___.
 
Chief Complaint:
L arm weakness and numbness
 
Major Surgical or Invasive Procedure:
Lumbar puncture ___

 
History of Present Illness:
___ p/w paresthesiae, numbness in the fingers of the left 
hand, toes, numbness L hemibody sparing face.

He first noticed a problem 10 days ago; he was more fatigued 
than normal (which has been severe over past month) and slept 
all day; no recent illnesses, vaccinations, travel, neck or arm 
injuries. When he woke up, noted numbness and paresthesiae in 
the fingers of the left hand. There was no clear weakness in the 
hand but it seemed incoordinated. 

The next day he woke up with the left armpit numb. Over the next 
___ days, it spread first to the left trunk and left shoulder 
blade ___ days ago), then the left side of the abdomen 2 days 
ago, and yesterday he noticed his foot numb and tingling. Today 
the entire leg felt numb/tingling. Walking (balance) has been 
slightly worse than normal since last weekend. Has noticed 
instability with his eyes closed. No obvious Uthoff.

He went to urgent care ___ and had labs done (including Lyme 
which returned negative) and to Dr ___ who noted L 
hand weakness, numbness, and ataxia and referred him in. 

ROS: No head/neck/back pain. He has not noticed any weakness per
se. He does complain of fatigue and mental fogginess. He is able
to get an erection but has not tried over the past couple of
days. He has not had any frank incontinence, but urination feels
vaguely off - no obvious urge incontinence. The right hemibody
has been normal with sensation and strength. Vision has been
normal and there is no history of transient decrease in acuity,
dyschromatopsia, or pain with eye movements (scratched his right
eye with contact lens on ___. Face has been normal with
sensation and strength. Audition normal. No coughing, gagging,
sputtering when swallowing and no liquids come out the nose.
Receptive and productive speech has been a little slow but no
dramatic problems. Fevers, chills, sweats, weight loss, rash 
(did
have rash between the toes and in groin), myalgias, arthralgias.
No obvious exposure to ticks (Lyme returned negative yesterday).
Does report dry mouth for the past ___ days (with dark urine) 
but
no obvious dry eye. 

 
Past Medical History:
- Depression 
- Anxiety
- Psychotic break ___ year, hospitalized at ___, ___ MRI then
- Raynaud's 
- Mononucleosis & strep throat in college

 
Social History:
___
Family History:
-No neurologic disorders, autoimmune disorders.
-Mother: osteoporosis
-Father: ___, heart issues
-Maternal grandparents: Heart disease, stroke
-___'s in cousin.

 
Physical Exam:
General: No distress, non-toxic
Head: Normocephalic
Neck: supple, no meningismus
Cardiac: Regular
Pulmonary: Clear
Abdomen: Soft
Extremities: warm, well perfused

Neurologic

- MS: Oriented to person, place, date. Alert, provides a cogent 
and succinct history. Registers ___, recalls ___. Speech has 
normal fluency, prosody,
naming, repetition, comprehension. Days of the week in reverse 
are normal. 

- CN: ___ ___. VFFTC with each eye tested separately. Red 
desat OD. However discs appear crip and there is no obvious 
pallor / RNFL abnormality. 4->2.5 ___ without APD. No ptosis. 

- Motor: 4+ L tricep and FFl, 5- WEx, FEx, IOs. UMN pattern in 
the 4+ to 5- range L leg with slightly increased tone LLE (tone 
o/w normal). Full strength R side. Slight pronation LUE. 

- Sensory: Slightly decreased proprioceptive sense to small 
joint movements on the left toe > thumb. Positive Romberg. 
Hyperesthetic to touch on the left side distal to C8 on the back 
and on the hand, stomach to light touch. Pin and cold are 
slightly decreased on the right arm, trunk > leg. 

- Reflexes: Attenuated L tricep, o/w normal in arms. Slightly 
brisk in legs with weakly crossed adductors. 

- Cerebellar: Slight incoordination in the LLE, LUE, which is 
not out of proportion to his weakness. No saccadic dysmetria. 
Normal base. Toes mute bilaterally. 

- Gait: Steady casual gait. Heel and toe walking preserved. Able 
to tandem walk. 
 
Pertinent Results:
___ 05:00PM   VIT B12-592
___ 05:00PM   TSH-2.1
___ 05:00PM   ANCA-NEGATIVE B
___ 05:00PM   ___
___ 05:00PM   RHEU FACT-<10 CRP-1.2
___ 05:00PM   C3-85* C4-18
___ 12:34PM   GLUCOSE-92 UREA N-11 CREAT-0.9 SODIUM-139 
POTASSIUM-4.3 CHLORIDE-101 TOTAL CO2-31 ANION GAP-11
___ 12:34PM   estGFR-Using this
___ 12:34PM   CALCIUM-9.4 PHOSPHATE-3.2 MAGNESIUM-2.1
___ 12:34PM   ASA-NEG ETHANOL-NEG ACETMNPHN-NEG 
bnzodzpn-NEG barbitrt-NEG tricyclic-NEG
___ 12:34PM URINE  bnzodzpn-NEG barbitrt-NEG opiates-NEG 
cocaine-NEG amphetmn-NEG oxycodn-NEG mthdone-NEG
___ 12:34PM   WBC-5.5 RBC-4.31* HGB-13.6* HCT-41.2 MCV-96 
MCH-31.6 MCHC-33.0 RDW-13.8 RDWSD-48.7*
___ 12:34PM   NEUTS-47.7 ___ MONOS-11.1 EOS-1.1 
BASOS-0.4 IM ___ AbsNeut-2.64 AbsLymp-2.18 AbsMono-0.61 
AbsEos-0.06 AbsBaso-0.02
___ 12:34PM   PLT COUNT-179

MRI Cervical and thoracic with contrast (___): 
1. Short-segment enhancing lesion at the left dorsal aspect of 
the cervical
cord at the C3 level in addition to an ill-defined nonenhancing 
central lesion at the T9-T10 level which, in addition to the 
white matter lesions on the brain MRI, are suspicious for a 
demyelinating process.
2. Multilevel cervical spondylosis, as described, most advanced 
C5-C6 where there is a central disc protrusion causing moderate 
to severe stenosis which contacts mildly deforms the cord 
without edema or myelomalacia.
3. Mild T2 hyperintense prominence within the central cervical 
cord extending from C4-C5 to C7-T1, likely representing a small 
syrinx which may be degenerative given the disc protrusion and 
stenosis at the C5-C6 level.  No associated enhancement to 
suggest an underlying lesion.

MRI Head w/ and W/O contrast (___): 
1. Small areas of ill-defined FLAIR hyperintensity within the 
right
periventricular white matter and within the right mid centrum 
semiovale, as
described, without associated enhancement.  Findings are 
nonspecific, however given the spinal cord lesions on spine MRI, 
findings are suspicious for demyelinating lesions.  Differential 
considerations include sequela of chronic microvascular disease, 
chronic migraine, prior infectious, inflammatory, or traumatic 
process. Recommend clinical correlation.
 
2. No acute intracranial abnormality without infarct, 
hemorrhage, mass, or
mass effect.

EEG (___):  This is a normal routine EEG in the awake and 
drowsy states. There are no focal or epileptiform features.
 
Brief Hospital Course:
___ M w 10 days of progressive left hemisensory paresthesias; 
on examination he has weakness on the left upper extremity (C4, 
C7/8 distribution) and left lower extremity (UMN pattern), 
decreased sensation to light touch and position on the left 
hemibody, and decreased sensation to pinprick on the right 
hemibody. Imaging shows an enhancing lesion in the left C3 
spinal cord as well as weakly enhancing thoracic lesion which 
are suspicious for inflammatory, possibly demyelinating process. 
His imaging also demonstrated old hyper intense lesions in the 
thoracic cord and in the periventricular region of the brain. 
Considering this, a presumptive diagnosis of MS was made and he 
was treated for an acute flare. 

# Acute Demyelination: We ruled out viral causes including HSV, 
VZV, EBV, CMV; inflammatory/autoimmune work up was negative 
(ESR/CRP negative, NMO, ___, Sjogrens, ANCA, RF);  and 
nutritional studies (vit b12, copper) were noncontributory.  
- Treatment with IV methylprednisolone 1gm q24h x5 days was done 
(___)
- CSF MS profile for oligoclonal bands is positive, suggesting 
that he has multiple sclerosis.  
- Visual evoked potentials were done. These were normal. 

#Dysesthesia: 
- He was started on Gabapentin 200mg BID for treatment of 
dysesthesias with moderate relief. We recommended up titration 
on an outpatient basis if necessary. 

#Psych: The patient was evaluated by psychiatry for management 
of anxiety, and adjustment to new diagnosis. They recommended 
outpatient CBT considering his preference for no medication at 
this time. They also suggested Lexapro for future 
considerations. 

#GI/Met:
 -Tolerated regular diet. 

# Transitional Issues: The patient was evaluated by ___ to 
evaluate given changes in balance and coordination. He was 
determined fit to discharge home with ___ services. He will 
follow-up with the ___ clinic here at ___ for future treatment. 
His first appointment will be on ___ at 8:30am. 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. This patient is not taking any preadmission medications

 
Discharge Medications:
1. Gabapentin 300 mg PO TID 
RX *gabapentin 300 mg 1 capsule(s) by mouth three times daily 
Disp #*90 Capsule Refills:*2
2. Outpatient Physical Therapy
3. Escitalopram Oxalate 5 mg PO DAILY 
RX *escitalopram oxalate 5 mg 1 tablet(s) by mouth daily Disp 
#*30 Tablet Refills:*2

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Demyelinating lesion of cervical spinal cord

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

You were admitted for 10 days of numbness and tingling over your 
left side. We performed an extensive evaluation including 
imaging of your brain and cervical spine. We found a lesion in 
the cervical portion of your spinal cord. We performed several 
tests including a lumbar puncture to obtain cerebrospinal fluid, 
an EEG to evaluate for possibility of seizures, and visual 
evoked potentials to evaluate for any prior episodes of optic 
neuritis.

While not of all of your studies have finalized, we believe 
there is clinical evidence for a demyelinating process such as 
MS, and we treated you with a course of IV steroids. We also 
started you on a medication called gabapentin which should help 
with some of your sensory symptoms.

You will have follow up scheduled in the ___ clinic with Dr. 
___.

It was a pleasure taking care of you. We wish you the best.
Sincerely,
Your ___ Care Team
 
Followup Instructions:
___